US07582650B2
2-(2-Bromophenoxy)-benzonitrile, 1j
To a solution of 2-bromophenol (6.0 mL, 51.7 mmol) in DMF (80 mL) was added potassium carbonate (7.16 g, 51.7 mmol), and the mixture was allowed to stir for 10 min ar rt. 2-Fluorobenzonitrile (5.62 mL, 82.6 mmol) was added and the mixture was heated to 100° C. for 40 h. The mixture was allowed to cool to rt, poured onto ice, filtered, washed with water, and dried to yield 13.0 g (91.7%) of title compound 2-(2-bromophenoxy)-benzonitrile 1j.

reactant | 2-bromophenol | 51.7 mmol, 6.0 mL | BrC1=C(C=CC=C1)O | C6H5BrO
reactant | potassium carbonate | 51.7 mmol, 7.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Fluorobenzonitrile | 82.6 mmol, 5.62 mL | FC1=C(C#N)C=CC=C1 | C7H4FN
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
product | 2-(2-Bromophenoxy)-benzonitrile | 13.0 g, 91.7% | BrC1=C(OC2=C(C#N)C=CC=C2)C=CC=C1 | C13H8BrNO
